US07553842B2
3-(3-Hydroxypropylthio)dihydrofuran-2(3H)-one (1.14 mL, 1.14 mmol) was dissolved in methylene chloride (1 mL), treated with 2,6-dimethylpyridine (0.290 ml, 2.50 mmol) and cooled to −10° C. under a N2 atmosphere. Trifluoromethanesulfonic anhydride (0.401 mL, 2.38 mmol) dissolved in methylene chloride (1 mL) was added dropwise to the alcohol. After stirring for 90 minutes, the reaction mixture was quenched with 20% ethyl acetate/hexanes and the whole mixture was passed through a short silica gel column, eluting with ethyl acetate/hexanes (1:4). Concentration of the desired fractions in vacuo gave 3-(2-oxotetrahydrofuran-3-ylthio)propyl trifluoromethanesulfonate as a liquid (285 mg, 81%).

reactant | 3-(3-Hydroxypropylthio)dihydrofuran-2(3H)-one | 1.14 mmol, 1.14 mL | OCCCSC1C(OCC1)=O | C7H12O3S
reactant | 2,6-dimethylpyridine | 2.50 mmol, 0.290 ml | CC1=NC(=CC=C1)C | C7H9N
reactant | Trifluoromethanesulfonic anhydride | 2.38 mmol, 0.401 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | 3-(2-oxotetrahydrofuran-3-ylthio)propyl trifluoromethanesulfonate | 285 mg, 81% | FC(S(=O)(=O)OCCCSC1C(OCC1)=O)(F)F | C8H11F3O5S2
